### PR TITLE
Added the copatterns with coinduction section to the user manual

### PR DESCRIPTION
**Pull request by RemcoSchrijver**
While I was experimenting with coinduction and copatterns for agda2hs, I came across [this gist](https://gist.github.com/puffnfresh/8960574) of  @puffnfresh which explained nicely how to use copatterns in combination with coinduction.

I felt I was missing this in the user manual of Agda, after reading the section on copatterns I myself still couldn't apply it on coinductive records. That's also the reason I came across this gist.

So I added the explanation of @puffnfresh and made it consistent with the other parts of the user manual. I didn't add the section of 'nats' because I wasn't sure how to explain that properly so that might still be of interest to include.

### CODE REVIEW

File: doc/user-manual/language/copatterns.lagda.rst [hunk 1]
```diff
@@ -119,7 +122,33 @@ The resulting behaviour is the same in both cases:
     test₂ : backward-2 enum-Nat 5 ≡ 3
     test₂ = refl
 
+Copatterns with coinduction
+----------------------------------
+
```
Comment (andreasabel) [inline doc/user-manual/language/copatterns.lagda.rst]: The option `--guardedness` which is necessary to process this example, should be mentioned in the text here.

File: doc/user-manual/language/copatterns.lagda.rst [hunk 2]
```diff
@@ -119,7 +122,33 @@ The resulting behaviour is the same in both cases:
     test₂ : backward-2 enum-Nat 5 ≡ 3
     test₂ = refl
 
+Copatterns with coinduction
```
Comment (andreasabel) [inline doc/user-manual/language/copatterns.lagda.rst]: This section does not fit here, because it cuts the `enum` example in the middle.  Please move it somewhere where it does not disrupt the narrative.  I suggest to the end of the file.

**Review by andreasabel — CHANGES_REQUESTED** [review]
Thanks for the contribution!

**Comment by andreasabel** [comment]
Actually, I am coming to think whether these explanations are not already present in the section on coinduction: https://agda.readthedocs.io/en/latest/language/coinduction.html
Maybe just a link to the coinduction section from the copatterns section is missing?

**Comment by RemcoSchrijver** [comment]
> Actually, I am coming to think whether these explanations are not already present in the section on coinduction: https://agda.readthedocs.io/en/latest/language/coinduction.html Maybe just a link to the coinduction section from the copatterns section is missing?

Yes it does talk about copatterns there indeed, but for a novice like me it wasn't immediately clear how I could translate those example to something like repeat. It feels to me like the functions like odd/even are somehow different to something that instantiates a stream like repeat.

So maybe it would be better to just add repeat as another example in the section on coinduction and then make a reference in copatterns to coinduction?

**Comment by andreasabel** [comment]
> So maybe it would be better to just add repeat as another example in the section on coinduction and then make a reference in copatterns to coinduction?

Yes, that sounds right!

File: doc/user-manual/language/copatterns.lagda.rst [hunk 3]
```diff
@@ -21,7 +21,9 @@
 Copatterns
 **********
 
-Consider the following record:
+If you are looking for information on how to use copatterns with
```
Comment (RemcoSchrijver) [inline doc/user-manual/language/copatterns.lagda.rst]: I am not sure if this is the correct place to reference the coinduction section, but it didn't feel like it could go anywhere else naturally either.

File: doc/user-manual/language/coinduction.lagda.rst [hunk 4]
```diff
@@ -107,6 +107,15 @@ Finally, we can prove that ``merge`` is a left inverse for ``split``:
     hd-≡ (merge-split-id _)  = refl
     tl-≈ (merge-split-id xs) = merge-split-id (tl xs)
 
+On top of creating fuctions that work on existing ``Stream``\s we can also use
```
Comment (andreasabel) [inline doc/user-manual/language/coinduction.lagda.rst]: fuctions --> functions

File: doc/user-manual/language/coinduction.lagda.rst [hunk 5]
```diff
@@ -107,6 +107,15 @@ Finally, we can prove that ``merge`` is a left inverse for ``split``:
     hd-≡ (merge-split-id _)  = refl
     tl-≈ (merge-split-id xs) = merge-split-id (tl xs)
 
+On top of creating fuctions that work on existing ``Stream``\s we can also use 
+:ref:`copatterns <copatterns>` to instantiate a ``Stream``\. Like the ``repeat``
```
Comment (andreasabel) [inline doc/user-manual/language/coinduction.lagda.rst]: The sentence starting with "Like the" does not have a verb.  
But you can join it to the previous sentence with `,`.

File: doc/user-manual/language/copatterns.lagda.rst (hunk 3 above)
Comment (andreasabel) [inline doc/user-manual/language/copatterns.lagda.rst]: Yes, this is a god place.  Use the `.. note:` environment to make it stand out.

**Review by andreasabel — CHANGES_REQUESTED** [review]
Thanks for the update! 
This is good modulo some cosmetic changes.  (I could have done them myself, but you are the only person who has write access to this PR.  When opening a PR, you can give the maintainers write access by ticking the box `[ ] Allow maintainers...`)

**Comment by RemcoSchrijver** [comment]
Alright I implemented the small comsetic fixes, thank you for reviewing the PR!

File: doc/user-manual/language/copatterns.lagda.rst [hunk 6]
```diff
@@ -21,7 +21,9 @@
 Copatterns
 **********
 
-Consider the following record:
+.. note:: If you are looking for information on how to use copatterns with 
+   coinductive records please go to the section on :ref:`coinduction <coinduction>`. 
+   Now consider the following record:
```
Comment (andreasabel) [inline doc/user-manual/language/copatterns.lagda.rst:26]: Er, the "Now consider" should not be part of the note.  Don't you need an empty line after the note?

**Review by andreasabel — CHANGES_REQUESTED** [review]
Please fix the note.

**Comment by andreasabel** [comment]
Also, no trailing whitespace is allowed: https://github.com/agda/agda/runs/6627427305?check_suite_focus=true#step:8:5
> Run $HOME/.local/bin/fix-whitespace --check
> [ Violation detected ] doc/user-manual/language/coinduction.lagda.rst
> [ Violation detected ] doc/user-manual/language/copatterns.lagda.rst

Fix this by running `fix-whitespace` in the repo root.

**Review by andreasabel — APPROVED** [review]
I am fixing the remaining issues myself.

**Comment by andreasabel** [comment]
Continued in 
- #5927
